US08431695B2
Step 2: Preparation of 5-bromo-7-[2-(4-methylpiperazin-1-yl)pyridin-4-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine
To a cooled (−20° C.) solution 7-[2-(4-methylpiperazin-1-yl)pyridin-4-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine (250 mg, 0.81 mmol) in tetrahydrofuran (5 mL) was added 1,3-dibromo-5,5-dimethylhydantoin (115 mg, 0.40 mmol) in four portions over 15 min. The mixture was allowed to stir (−20° C.) for 4 h. The reaction was quenched with the addition saturated aqueous Na2SO3 (10 mL) and was allowed to warm to rt. The mixture was extracted with ethyl acetate (2×20 mL). The combined organics were filtered to remove a fine precipitate and the filtrate was washed with brine, dried (Na2SO4) and concentrated. The residue was purified by preparative HPLC using a gradient elution from 0% to 25% acetonitrile in water to obtain 60 mg (19%) of the desired product as a yellow foam. 1H NMR (300 MHz, DMSO-d6) δ 8.70 (d, 1 H), 8.14 (dd, 1 H), 7.89 (s, 1 H), 7.14 (s, 1 H), 6.90 (d, 1 H), 3.55-3.50 (m, 4 H), 2.40-2.34 (m, 4 H), 2.20 (s, 3 H); ES-MS m/z 388.12 [M+H]+, HPLC RT (min) 1.38.

reactant | 7-[2-(4-methylpiperazin-1-yl)pyridin-4-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.81 mmol, 250 mg | CN1CCN(CC1)C1=NC=CC(=C1)C1=CC=C2C(=NC=NN21)N | C16H19N7
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 0.40 mmol, 115 mg | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 5-bromo-7-[2-(4-methylpiperazin-1-yl)pyridin-4-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine | 60 mg, 19% | BrC=1C=C(N2N=CN=C(C21)N)C2=CC(=NC=C2)N2CCN(CC2)C | C16H18BrN7
